US05547983
a) 4-tert-butyldimethylsilyloxy-3-(1-adamantyl)benzaldehyde
2.6 g of magnesium and 0.05 ml of dibromoethane are added to 33 g (78 mmol) of 3-(1-adamantyl)-4-tertbutyldimethylsilyloxybromobenzene in 300 ml of THF and then the mixture is refluxed for 3 h 30 min under nitrogen After cooling the mixture to 0° C., 5.8 ml of anhydrous DMF are then added and the mixture is left stirring for 1 h at room temperature. After evaporation, the residue is taken up in 100 ml of water, acidified up to pH 5, extracted with ether and the organic phase is washed with water and dried over magnesium sulphate. 22.3 g (77%) of the expected derivative are isolated, which derivative melts at 121°-122° C.

reactant | magnesium | 2.6 g | [Mg] | Mg
reactant | dibromoethane | 0.05 ml | BrC(C)Br | C2H4Br2
reactant | 3-(1-adamantyl)-4-tertbutyldimethylsilyloxybromobenzene | 78 mmol, 33 g | C12(CC3CC(CC(C1)C3)C2)C=2C(=C(C=CC2C(C)(C)C)Br)O[SiH](C)C | C22H33BrOSi
reactant | DMF | 5.8 ml | CN(C)C=O | C3H7NO
reactant | THF | 300 ml | C1CCOC1 | C4H8O
product | 4-tert-butyldimethylsilyloxy-3-(1-adamantyl)benzaldehyde | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=O)C=C1)C12CC3CC(CC(C1)C3)C2 | C23H34O2Si
